US07018988B2
N2-(2-methoxyethyl)-4-methylene-N1-(3-methylphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 1-isocyanato-3-methylbenzene, and 2-methoxyethylamine the title compound was obtained in 85% purity by LC/MS. MS(ESI+): m/z=318.0.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 1-isocyanato-3-methylbenzene | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | N2-(2-methoxyethyl)-4-methylene-N1-(3-methylphenyl)-1,2-pyrrolidinedicarboxamide | COCCNC(=O)C1N(CC(C1)=C)C(=O)NC1=CC(=CC=C1)C | C17H23N3O3
